US07786165B2
methyl 4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6,6′-trimethylbiphenyl-3-carboxylate
To a solution of methyl 4′-hydroxy-2′,6,6′-trimethylbiphenyl-3-carboxylate (199 mg, 0.74 mmol) and 1-oxa-6-thiaspiro[2.5]octane (116 mg, 0.89 mmol) in N,N-dimethylformamide (2.5 mL) was added potassium carbonate (123 mg, 0.89 mmol) and the mixture was stirred overnight at 100° C. Brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=1/1) to give the title compound (191 mg, yield 64%) as a colorless oil.

reactant | methyl 4′-hydroxy-2′,6,6′-trimethylbiphenyl-3-carboxylate | 0.74 mmol, 199 mg | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1C)C(=O)OC)C | C17H18O3
reactant | 1-oxa-6-thiaspiro[2.5]octane | 0.89 mmol, 116 mg | O1CC12CCSCC2 | C6H10OS
reactant | potassium carbonate | 0.89 mmol, 123 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | Brine | [Cl-].[Na+].O
product | methyl 4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6,6′-trimethylbiphenyl-3-carboxylate | 191 mg, yield 64% | OC1(CCSCC1)COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1C)C(=O)OC)C | C23H28O4S
